US04439619
A mixture of 1-fluoro-2-phthalimido-3-pentene (800 mg, 3.4 mmoles) prepared as in Step C above, N-bromosuccinimide (612 mg. 3.4 mmoles), carbon tetrachloride (30 mL) and a few mg of benzoyl peroxide is heated under strong reflux during irradiation with a lamp (325 W) during one hour. After washing with water the organic phase is dried over magnesium sulfate and then concentrated under reduced pressure to yield 1-fluoro-2-phthalimido-5-bromo-3-pentene as a slightly yellow oil (1.06 g, quantitative yield).

reactant | 1-fluoro-2-phthalimido-3-pentene | 3.4 mmoles, 800 mg | FCC(C=CC)N1C(C=2C(C1=O)=CC=CC2)=O | C13H12FNO2
reactant | N-bromosuccinimide | 3.4 mmoles, 612 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 30 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-fluoro-2-phthalimido-5-bromo-3-pentene | FCC(C=CCBr)N1C(C=2C(C1=O)=CC=CC2)=O | C13H11BrFNO2
